US08895588B2
5-[(4-fluorophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazole-3-carbaldehyde
{5-[(4-Fluorophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazol-3-yl}methanol (135 mg) was dissolved in toluene (2 mL), manganese dioxide (167 mg) was added, and the mixture was stirred at 100° C. for 42 hr. The reaction mixture was allowed to cool to room temperature, and filtered through celite. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=19:1→3:1) to give the title compound as a colorless oil (yield 108 mg, yield 80%).

reactant | {5-[(4-Fluorophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazol-3-yl}methanol | 135 mg | FC1=CC=C(C=C1)S(=O)(=O)C1=CC(=NN1C=1C(=NC=CC1)F)CO | C15H11F2N3O3S
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 167 mg | [O-2].[O-2].[Mn+4]
product | 5-[(4-fluorophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazole-3-carbaldehyde | yield 108 mg, yield 80% | FC1=CC=C(C=C1)S(=O)(=O)C1=CC(=NN1C=1C(=NC=CC1)F)C=O | C15H9F2N3O3S
